US07067506B2
Step 3: (1,2,3,4-Tetrahydro-quinolin-3-yl)-methanol.
To a stirred solution of the 1,2,3,4-Tetrahydro-quinoline-3-carboxylic acid methyl ester (93 mg, 0.49 mmol) in 1.5 mL of Et2O at 0° C. under nitrogen was added LiA1H4 (1M in Et2O) dropwise with vigorous gas evolution and a white precipitate formation. After 30 min., the reaction was carefully quenched with 15% NaOH (3 mL) and 3 mL of Et2O was added and the mixture stirred rapidly at RT for 15 min. The layers were separated and the aqueous layer extracted (1×10 mL) with Et2O. The organics were combined, dried (MgSO4), filtered and concentrated to the alcohol (64 mg, 80%). 1H-NMR (400 MHz, CDCl3) δ6.97 (m, 2H), 6.62 (dd, 1H), 6.47 (d, 1H), 3.66 (m, 1H), 3.58 (m, 1H), 3.40 (m, 1H), 3.08 (m, 1H), 2.82 (m, 1H), 2.53 (m, 1H), 2.18 (m, 1H).

reactant | 1,2,3,4-Tetrahydro-quinoline-3-carboxylic acid methyl ester | 0.49 mmol, 93 mg | COC(=O)C1CNC2=CC=CC=C2C1 | C11H13NO2
solvent | Et2O | 1.5 mL | CCOCC | C4H10O
product | (1,2,3,4-Tetrahydro-quinolin-3-yl)-methanol | N1CC(CC2=CC=CC=C12)CO | C10H13NO
